US05334606
a) L-(+)-Lactic Acid 3,5-bistrifluoromethylbenzyl amide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.5 g) was added to a solution of L-(+)-lactic acid (1.17 g) and 1-hydroxybenzotriazole (1.99 g) in dimethyl formamide (15 ml) at 0° C. under a nitrogen atmosphere. After stirring for 30 mins, 3,5-bistrifluoromethylbenzylamine was added and the solution was stirred at room temperature for 16h. The solution was diluted with dichloromethane (150 ml) and washed with sodium bicarbonate solution, water and brine. After drying (Na2SO4) the solvent was evaporated in vacuo to leave a viscous yellow oil.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.5 g | Cl.CN(CCCN=C=NCC)C
reactant | L-(+)-lactic acid | 1.17 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | 1-hydroxybenzotriazole | 1.99 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3,5-bistrifluoromethylbenzylamine | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | L-(+)-Lactic Acid 3,5-bistrifluoromethylbenzyl amide | FC(C=1C=C(CNC([C@@H](O)C)=O)C=C(C1)C(F)(F)F)(F)F | C12H11F6NO2
